US06911561B2
A solution of bis(trifluoroacetyl) peroxide in trifluoroacetic acid was prepared by addition of freshly distilled bis(trifluoroacetic) anhydride (21 g, 100 mmol) dropwise into a well-stirred solution of potassium trifluoroacetate (6.8 mg, 0.045 mmol) in trifluoroperacetic acid (13 g, 100 mmol) and trifluoroacetic acid (15.9 g, 139.5 mmol) at 0° C. A 29.5% (mol) solution of bis(trifluoroacetyl) peroxide in the trifluoroacetic acid was obtained.

reactant | bis(trifluoroacetic) anhydride | 100 mmol, 21 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | potassium trifluoroacetate | 0.045 mmol, 6.8 mg | FC(C(=O)[O-])(F)F.[K+]
reactant | trifluoroperacetic acid | 100 mmol, 13 g | FC(C(=O)OO)(F)F | C2HF3O3
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | trifluoroacetic acid | 139.5 mmol, 15.9 g | FC(C(=O)O)(F)F | C2HF3O2
product | bis(trifluoroacetyl) peroxide | FC(C(=O)OOC(C(F)(F)F)=O)(F)F | C4F6O4
